US07473701B2
N-{3-[2-(4-Chlorophenyl)ethyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide can be obtained as described in Example 75 from 465 mg of N-{3-[(E)-2-(4-chlorophenyl)vinyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide, 47 mg of 10% palladium-on-charcoal and 8 ml of dimethylformamide. 145 mg of N-{3-[2-(4-chlorophenyl)-ethyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide are thus obtained in the form of a white solid melting at 215° C. (analysis C22H20ClN3O4S2 % calculated C, 53.92; H, 4.11; Cl, 7.24; N, 8.58; O, 13.06; S, 13.09. % found C, 52.86; H, 4.26; Cl, 7.72; N, 8.49; S, 12.52).

reactant | N-{3-[(E)-2-(4-chlorophenyl)vinyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide | 465 mg | ClC1=CC=C(C=C1)/C=C/C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C22H18ClN3O4S2
catalyst | palladium-on-charcoal | 47 mg | [Pd] | Pd
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | N-{3-[2-(4-chlorophenyl)-ethyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide | 145 mg | ClC1=CC=C(C=C1)CCC1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C22H20ClN3O4S2
